US07173151B2
160 mg of tert-butyl 4-(cis-3-{2-[3-cyclohexyl-1-(4-methylbenzyl)ureido]ethoxy}cyclohexyl)-2-ethylbutyrate are dissolved in 16 ml of dichloromethane, and 4 ml of trifluoroacetic acid are added. The mixture is stirred at room temperature for 12 hours. 50 ml of toluene are then added, and the solvents are removed under reduced pressure. The residue is purified by RP-HPLC. Freeze drying gives 123 mg of 4-(cis-3-{2-[3-cyclohexyl-1-(4-methylbenzyl)ureido]ethoxy}cyclohexyl)-2-ethylbutyric acid as a colorless oil. C29H46N2O4 (486.70), MS(ESI): 487 (M+H+).

reactant | tert-butyl 4-(cis-3-{2-[3-cyclohexyl-1-(4-methylbenzyl)ureido]ethoxy}cyclohexyl)-2-ethylbutyrate | 160 mg | C1(CCCCC1)NC(N(CC1=CC=C(C=C1)C)CCO[C@H]1C[C@H](CCC1)CCC(C(=O)OC(C)(C)C)CC)=O | C33H54N2O4
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | 4-(cis-3-{2-[3-cyclohexyl-1-(4-methylbenzyl)ureido]ethoxy}cyclohexyl)-2-ethylbutyric acid | 123 mg | C1(CCCCC1)NC(N(CC1=CC=C(C=C1)C)CCO[C@H]1C[C@H](CCC1)CCC(C(=O)O)CC)=O | C29H46N2O4
